US08633173B2
2-(4-{4-[8-(4-Cyano-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide was prepared from 4-[2-(4-piperidin-4-yl-phenylamino)-[1,2,4]triazolo[1,5-a]pyridine-8-yl]benzonitrile (0.111 g, 0.281 mmol) and 2-chloro-N,N-dimethyl-acetamide (0.043 mL, 0.422 mmol) in a manner analogous to Example 313 to give product (0.060 g, 44%). MP=245-246° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.71 (s, 1H), 8.87 (d, 1H), 8.40 (d, 2H), 8.00 (m, 3H), 7.62 (d, 2H), 7.15 (m, 3H), 3.12 (s, 2H), 3.05 (s, 3H), 2.95 (m, 2H), 2.80 (s, 3H), 2.40 (m, 1H), 2.12 (m, 2H), 1.65 (m, 4H). MS=480 (MH)+.

reactant | 4-[2-(4-piperidin-4-yl-phenylamino)-[1,2,4]triazolo[1,5-a]pyridine-8-yl]benzonitrile | 0.281 mmol, 0.111 g | N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C#N)C=C2)=N1 | C24H22N6
reactant | 2-chloro-N,N-dimethyl-acetamide | 0.422 mmol, 0.043 mL | ClCC(=O)N(C)C | C4H8ClNO
product | 2-(4-{4-[8-(4-Cyano-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide | C(#N)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N(C)C | C28H29N7O
